US04359420
10.7 g (35.3 mmol) of ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate and 7.13 g (17.6 mmol) of 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide in 100 ml of toluene are heated to boiling under reflux for 22 hours. The mixture is subsequently concentrated in vacuo until crystallisation begins and is then left to stand in an ice-bath for 1 hour. The crystallised-out material is filtered off under suction and washed with a small amount of toluene. The mixture is separated on silica gel with ethyl acetate/chloroform (1:9). After recrystallisation from ethyl acetate, there is obtained pure ethyl 8-fluoro-5,6-dihydro-5-methyl-6-thioxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 157°-159° C.

reactant | ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 35.3 mmol, 10.7 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCC)C)=O)C1 | C15H14FN3O3
reactant | 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide | 17.6 mmol, 7.13 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 8-fluoro-5,6-dihydro-5-methyl-6-thioxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCC)C)=S)C1 | C15H14FN3O2S
